US05093328
trans-1-Benzyloxycarbonyl-4-hydroxy-L-proline (3.55 g) was dissolved in dry tetrahydrofuran (60 ml), and triethylamine (2.80 ml) was added thereto, followed by addition of sec-butyl chloroformate (2.75 g) at 0° to 5° C. under nitrogen stream. The resultant mixture was stirred at the same temperature for 30 minutes and cooled to -50° C. 28 Aqueous ammonia (3.62 ml) was added thereto, and the resulting mixture was stirred at the same temperature for 30 minutes, followed by removal of the solvent. The residue was diluted with ethyl acetate and dried over magnesium sulfate. After removal of the solvent, the residue was purified by silica gel column chromatography to give (2S,4R)-1-benzyloxycarbonyl-2-aminocarbonyl-4-hydroxypyrrolidine.

reactant | trans-1-Benzyloxycarbonyl-4-hydroxy-L-proline | 3.55 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)O)C[C@H](C1)O | C13H15NO5
reactant | triethylamine | 2.80 ml | C(C)N(CC)CC | C6H15N
reactant | sec-butyl chloroformate | 2.75 g | ClC(=O)OC(C)CC | C5H9ClO2
reactant | ammonia | 3.62 ml | N | H3N
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | (2S,4R)-1-benzyloxycarbonyl-2-aminocarbonyl-4-hydroxypyrrolidine | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)O)C(=O)N | C13H16N2O4
